US06410534B1
Step I: Preparation of N-(2,4-dimethoxybenzyl)-3-hydroxyaniline
To a solution of 3-hydroxyaniline (1 equiv) in 1,2-dichloroethane is added 4Å powdered molecular sieves, followed by sodium triacetoxyborohydride (1.5 equiv). 2,4-dimethoxybenzaldehyde (1.1 equiv) is added, and the reaction is stirred at room temperature. After completion, the reaction is poured into EtOAc, washed with sat. aq. NaHCO3 and brine, dried (Na2SO4), filtered, and concentrated in vacuo to provide the titled product.

reactant | 3-hydroxyaniline | 1 equiv | OC=1C=C(N)C=CC1 | C6H7NO
reactant | sodium triacetoxyborohydride | 1.5 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2,4-dimethoxybenzaldehyde | 1.1 equiv | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | N-(2,4-dimethoxybenzyl)-3-hydroxyaniline | COC1=C(CNC2=CC(=CC=C2)O)C=CC(=C1)OC | C15H17NO3
